US04843087
2-(3,5-Dichloro-4-hydroxyphenyl)-4,5 -dimethyloxazole N-oxide was prepared from 19.1 g 3,5-dichloro-4-hydroxybenzaldehyde and 10.1 g butanedione mono-oxime in formic acid in the presence of hydrogen chloride gas. There was obtained 12.2 g of product, m.p. 221°-223° C.

reactant | 3,5-dichloro-4-hydroxybenzaldehyde | 19.1 g | ClC=1C=C(C=O)C=C(C1O)Cl | C7H4Cl2O2
reactant | butanedione mono-oxime | 10.1 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogen chloride | Cl | ClH
solvent | formic acid | C(=O)O | CH2O2
product | 2-(3,5-Dichloro-4-hydroxyphenyl)-4,5 -dimethyloxazole N-oxide | ClC=1C=C(C=C(C1O)Cl)C=1OC(=C([N+]1[O-])C)C | C11H9Cl2NO3
